US07176227B2
Synthesis of 4-(2-dipropylaminoethyl)phenol
Tyramine (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (591 mg) was dissolved in anhydrous methanol (12 ml) and then added with sodium cyanoborohydride (812 mg), acetic acid (5.00 ml), and propionaldehyde (777 μl), followed by stirring at room temperature under a nitrogen atmosphere for 2 days. After completion of the reaction, the solvent was distilled off. Then, the residue was dissolved in diethyl ether and then stirred after the addition of distilled water. The solution was subjected to extraction with diethyl ether and the extract was then washed with distilled water and a saturated aqueous ammonium chloride solution. The organic layer was dried with anhydrous sodium sulfate and the solvent was then distilled off, thereby obtaining the subject compound (412 mg) as a dark brown liquid.

reactant | Tyramine | 591 mg | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | sodium cyanoborohydride | 812 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 5.00 ml | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 777 μl | C(CC)=O | C3H6O
solvent | methanol | 12 ml | CO | CH4O
product | 4-(2-dipropylaminoethyl)phenol | 412 mg | C(CC)N(CCC1=CC=C(C=C1)O)CCC | C14H23NO
